US07635776B2
2,6-Bis(hydroxymethyl)-p-cresol (0.6779 g, 4.03 mmol) was suspended in CH2Cl2 (10 ml), and to this suspension was added slowly SOCl2 (3 ml, 41.1 mmol) under cooling in an ice-bath, and the resulting mixture was stirred at room temperature for 18 hours. The color of the reaction solution turned yellow. After completion of the reaction, the solvent was removed by evaporation to give 2,6-bis(chloromethyl)-p-cresol.

reactant | 2,6-Bis(hydroxymethyl)-p-cresol | 4.03 mmol, 0.6779 g | OCC1=CC(=CC(=C1O)CO)C | C9H12O3
reactant | SOCl2 | 41.1 mmol, 3 ml | O=S(Cl)Cl | Cl2OS
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2,6-bis(chloromethyl)-p-cresol | ClCC1=CC(=CC(=C1O)CCl)C | C9H10Cl2O
